US06900207B2
N-benzyloxycarbonyl-L-leucyl-L-leucine t-butyl ester
Under atmosphere of argon, to a solution of N-benzyloxycarbonylleucine (26.5 g) and leucine t-butyl ester hydrochloride (22.4 g) in methylene chloride (20.0 ml) were added 1-hydroxybenzotriazole (HOBt) (14.2 g) and 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide (EDC) hydrochloride (20.1 g) at 0° C. Thereto was added N-methylmorpholine (11.5 ml) over a period of 5 minutes and the mixture was stirred for 20 hours at room temperature. The reaction solution was concentrated and to the residue were added ice-water and ethyl acetate. In order to dissolve HOBt that appeared, was added sodium bicarbonate. The aqueous layer was extracted with ethyl acetate and combined organic layer was washed with 10% aqueous solution of citric acid, a saturated aqueous solution of sodium bicarbonate and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and was concentrated to give the title compound (43.2 g) having the following physical data.

reactant | N-benzyloxycarbonylleucine | 26.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | leucine t-butyl ester hydrochloride | 22.4 g | Cl.C(C)(C)(C)OC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxybenzotriazole | 14.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide | 20.1 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 11.5 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 20.0 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-L-leucyl-L-leucine t-butyl ester | 43.2 g | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)=O)CC(C)C)=O | C24H38N2O5
